US06245778B1
3-Amino-6-methyl-5,6,7,8-tetrahydro[1,6]naphthyridine
6-Methyl-3-nitro-5,6,7,8-tetrahydro[1,6]naphthyridine (2.72 g, 1.41 mmol) was dissolved in methanol (100 ml) and treated with 10% palladium on carbon (1.0 g). The mixture was hydrogenated for 2 h. The catalyst was removed by filtration through Celite, the filter bed washed with methanol and the filtrate evaporated to dryness under reduced pressure to give a yellow solid, which was triturated under diethyl ether and the solids collected by filtration, washed with diethyl ether and dried in vacuo (1.89 g, 83%)

reactant | 6-Methyl-3-nitro-5,6,7,8-tetrahydro[1,6]naphthyridine | 1.41 mmol, 2.72 g | CN1CC=2C=C(C=NC2CC1)[N+](=O)[O-] | C9H11N3O2
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
product | 3-Amino-6-methyl-5,6,7,8-tetrahydro[1,6]naphthyridine | NC=1C=NC=2CCN(CC2C1)C | C9H13N3
